US07745451B2
B. N-(6-(Trifluoromethyl)pyridin-3-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
6-Benzyl-N-(6-(trifluoromethyl)pyridin-3-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (1.7 g, 4.4 mmol) was dissolved in methanol (25 mL) and palladium hydroxide was added (0.2 g, 20% wt). The mixture was shaken on a Parr Shaker under H2(g) atmosphere (60 PSI) for 1 day. The mixture was filtered through celite and evaporated to give 1.3 g (quant.) as an orange oil, which was used as such for the next step.

reactant | 6-Benzyl-N-(6-(trifluoromethyl)pyridin-3-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 4.4 mmol, 1.7 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NC=2C=NC(=CC2)C(F)(F)F)CC1 | C20H18F3N5
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | N-(6-(Trifluoromethyl)pyridin-3-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | FC(C1=CC=C(C=N1)NC=1C2=C(N=CN1)CCNC2)(F)F | C13H12F3N5
